US04478834
3-Benzyloxy-2-(hydroxymethyl)pyridine
Sodium hydroxide (31.5 grams, 0.78 mole) was dissolved in 100 ml water and 100 ml of acetone was added followed by 3-hydroxy-2(hydroxymethyl)pyridine hydrochloride (63.8 grams; 0.39 mole). 250 ml of acetone was added followed by benzyl bromide (74.1 grams; 51.5 ml; 0.43 mole). The mixture was refluxed for a period of 4.5 hours and the acetone evaporated in vacuo. The aqueous layer was extracted with CH2Cl2 (three times 150 ml) and the extracts dried (anhydrous Na2SO4) and concentrated to yield 88.1 grams of a brown liquid. The brown liquid (88.1 grams) was dissolved in ether and ether-HCl added to form the hydrochloride salt. The HCl salt was filtered and the filter cake dissolved in water. The aqueous solution was basified to afford a brown pasty precipate which on trituration with ether afforded 58.7 grams of material. Recrystallization from ethanol yielded 31.6 grams of a tan solid, m.p. 79°-80° C.

reactant | Sodium hydroxide | 0.78 mole, 31.5 grams | [OH-].[Na+]
reactant | acetone | 100 ml | CC(=O)C | C3H6O
reactant | 3-hydroxy-2(hydroxymethyl)pyridine hydrochloride | 0.39 mole, 63.8 grams | Cl.OC=1C(=NC=CC1)CO
reactant | acetone | 250 ml | CC(=O)C | C3H6O
reactant | benzyl bromide | 0.43 mole, 51.5 ml, 74.1 grams | C(C1=CC=CC=C1)Br | C7H7Br
solvent | water | 100 ml | O | H2O
product | 3-Benzyloxy-2-(hydroxymethyl)pyridine | 88.1 grams | C(C1=CC=CC=C1)OC=1C(=NC=CC1)CO | C13H13NO2
